US04072760
3-(4-Methoxybenzylamino)-4-hydroxy-α-(tert.butylaminomethyl)-benzylalcohol hydrochloride.
A mixture of 3-amino-4-hydroxy-α-(tert.butylaminomethyl)-benzylalcohol hydrochloride (6.53 g, 0.025 mole), p-methoxybenzaldehyde (3.4 g, 0.025 mole), PtO2 (180 mg), and methanol (125 ml) was placed in a hydrogenation apparatus and hydrogenated at normal pressure (20 - 30 cm H2O superatmospheric) for one hour and 50 minutes. During this period of time, the calculated amount of hydrogen was absorbed, and the hydrogenation was interrupted by supplying argon. The platinum catalyst was filtered off with continued supply of argon, but in spite of this, the filtrate quickly became dark due to oxidation. The filtrate was immediately evaporated in vacuum at 40° - 50° C. The residue which was a light brown foam (9.53 g), was recrystallized twice by precipitation from ethanol/ether (1:1). The yield of the analytical pure 3-(4-methoxybenzylamino)-4-hydroxy-α-(tert.butylaminomethyl)benzylalcohol hydrochloride was 5.2 g (55%), m.p. 196.6° - 197.8° C.

reactant | 3-amino-4-hydroxy-α-(tert.butylaminomethyl)-benzylalcohol hydrochloride | 0.025 mole, 6.53 g | Cl.NC=1C=C(C(CNC(C)(C)C)O)C=CC1O
reactant | p-methoxybenzaldehyde | 0.025 mole, 3.4 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | methanol | 125 ml | CO | CH4O
catalyst | PtO2 | 180 mg | O=[Pt]=O
solvent | H2O | O | H2O
product | 3-(4-Methoxybenzylamino)-4-hydroxy-α-(tert.butylaminomethyl)-benzylalcohol hydrochloride | Cl.COC1=CC=C(CNC=2C=C(C(CNC(C)(C)C)O)C=CC2O)C=C1 | InChI=1S/C20H28N2O3.ClH/c1-20(2,3)22-13-19(24)15-7-10-18(23)17(11-15)21-12-14-5-8-16(25-4)9-6-14;/h5-11,19,21-24H,12-13H2,1-4H3;1H
